US04652553
Step A: Pregn-5-en-20-one-3β-yl 6-(2-tetrahydropyranyloxy)hexyl ether
A solution of pregn-5-en-20-one-3β-yl 6-hydroxyhexyl ether (6.22 g) and p-toluenesulfonic acid (20 mg) in dihydropyran (100 ml) was stirred at room temperature for 18 hours. Solid sodium bicarbonate (1 g) was added and the mixture stirred for 30 minutes. The mixture was filtered through a pad of silica gel which was subsequently washed with 50% ethyl acetate in hexanes. The solvent was removed by rotoevaporation to give the product as a clear colorless oil. TLC data and Rf values for compounds A-D are given in the above Table.

reactant | pregn-5-en-20-one-3β-yl 6-hydroxyhexyl ether | 6.22 g | OCCCCCCO[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H44O3
reactant | p-toluenesulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | 1 g | C([O-])(O)=O.[Na+]
solvent | dihydropyran | 100 ml | O1CCCC=C1 | C5H8O
product | Pregn-5-en-20-one-3β-yl 6-(2-tetrahydropyranyloxy)hexyl ether | O1C(CCCC1)OCCCCCCO[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C32H52O4
